US07259178B2
A solution of 300 mg (0.58 mmol) of 2-{ethyl-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenyl]-amino}-1-phenyl-ethanol in 7.5 mL of THF was treated with 1.5 mL of a 1M TBAF-solution in THF and stirred at RT for 1 hour. Evaporation of the solvent and column chromatography on silica gel with n-heptane/EtOAc 9:1 yielded 153 mg (65%) of 2-{4-[ethyl-(2-hydroxy-2-phenyl-ethyl)-amino]-phenyl}-1,1,1,3,3,3-hexafluoro-propan-2-ol, white solid, MS: 408 (MH+).

reactant | 2-{ethyl-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenyl]-amino}-1-phenyl-ethanol | 0.58 mmol, 300 mg | C(C)N(CC(O)C1=CC=CC=C1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC | C25H33F6NO2Si
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | 2-{4-[ethyl-(2-hydroxy-2-phenyl-ethyl)-amino]-phenyl}-1,1,1,3,3,3-hexafluoro-propan-2-ol | 153 mg, 65% | C(C)N(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CC(C1=CC=CC=C1)O | C19H19F6NO2
